US06888032B2
3,4-Dimethoxybenzonitrile
An oven dried screw cap test tube was charged with NaCN (107 mg, 2.184 mmol), dried KI (60 mg, 0.361 mmol, 20 mol %) and CuI (34 mg, 0.210 mmol, 10 mol %), evacuated and backfilled with argon three times. 1-Bromo-3,4-dimethoxybenzene (260 μL, 1.807 mmol), N,N′-dimethylethylenediamine (195 μL, 1.832 mmol) and anhydrous toluene (1.2 mL) were added under argon. The tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 24 h. The resulting yellow suspension was cooled to room temperature, 2 mL of ethyl acetate, 1 mL of ammonium hydroxide (30%) and 1 mL of water were added. The mixture was stirred at 25° C. for 10 min, then the organic layer was washed with 1 mL of water and dried over MgSO4. The GC analysis showed complete conversion of starting material with formation of the title product (confirmed by GC-MS).

reactant | NaCN | 2.184 mmol, 107 mg | [C-]#N.[Na+]
reactant | 1-Bromo-3,4-dimethoxybenzene | 1.807 mmol, 260 μL | BrC1=CC(=C(C=C1)OC)OC | C8H9BrO2
reactant | N,N′-dimethylethylenediamine | 1.832 mmol, 195 μL | CNCCNC | C4H12N2
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
catalyst | CuI | 0.210 mmol, 34 mg | [Cu]I
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1.2 mL | C1(=CC=CC=C1)C | C7H8
product | 3,4-Dimethoxybenzonitrile | COC=1C=C(C#N)C=CC1OC | C9H9NO2
